Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])([O:4][C:5]([H:6])[C:8]([H:7])([H:9])[H:13])[O:14][C:10]([H:11])[H:12]>>[H:1][C:2]1([H:3])[O:4][C:5]([H:6])([H:7])[C@@:8]([H:9])([C:10]([H:11])([H:12])[H:13])[O:14]1,-3.29424414
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])=[C:7]=[O:8]>>[C:2]([H:3])([H:4])[C:5]([H:6])=[C:7]=[O:8].[O:1],3.53290710526
[H:1][O:2][C:3]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[H:4]>>[H:1][O:2][C:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-4.121107192709999
[O:1]=[C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[O:1]=[C:2][H:3],4.31270722712
[H:1][C:2][O:3][C:4][C:5]#[C:6][H:7]>>[C:6][H:7].[H:1][C:2][O:3][C:4]#[C:5],8.23032806736
[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12]>>[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])=[C:9]=[C:10]([H:11])[H:12].[H:8],1.84943193365
[H:5].[O:1]=[C:2]([H:3])/[C:4]=[C:6](/[O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[O:7][H:8])[C:9]([H:10])([H:11])[H:12],-5.02389778739
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:14].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12][H:13],5.23915075932
[H:12].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C@@:7]([H:8])([C:9]([H:10])[H:11])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.58537259953
[C:1]#[C:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1].[C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],6.93451232258
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])[H:15].[H:8],4.21512499904
[C:1]#[C:2][C:3][O:5][H:6].[O:4]>>[C:1]#[C:2][C:3](=[O:4])[O:5][H:6],-5.76013162018
[O:1]([C:2]=[C:4]([H:3])[H:9])[H:6].[O:5]=[C:7][H:8]>>[O:1]=[C:2]([H:3])[C:4]([O:5][H:6])=[C:7]([H:8])[H:9],-4.48170232363
[H:1][O:2]/[C:3]=[C:4](\[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1].[O:2]=[C:3]=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],0.980305915697
[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])[C:9]#[C:10][H:11]>>[H:11].[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])[C:9]#[C:10],4.2234386984
[H:1][C:2].[O:3]=[C:4]=[C:5]([H:6])[O:7][C:8]([H:9])([H:10])[H:11]>>[H:1][C:2][O:3]/[C:4]=[C:5](\[H:6])[O:7][C:8]([H:9])([H:10])[H:11],-2.42038996178
[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[H:7])[O:8][O:9][C:10]([H:11])([H:12])[H:13]>>[C:2](#[C:3][C:4]([H:5])([H:6])[H:7])[O:8][O:9][C:10]([H:11])([H:12])[H:13].[H:1],2.22125190785
[H:8].[O:1]=[C:2]([O:3][C:4]=[C:5]([H:6])[H:7])[C:9]([H:10])([H:11])[H:12]>>[O:1]=[C:2]([O:3][C:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-2.83701072464
[H:13].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8][O:9][C:10]([H:11])[H:12]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8][O:9][C:10]([H:11])([H:12])[H:13],-4.4617138156900005
[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])=[C:10][H:11]>>[C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])=[C:10][H:11].[H:1],3.5522465044
[H:1][C:2][O:3][C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2][O:3][C:4][H:5].[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],4.6609580538
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[H:12]>>[C:4]([H:5])[H:6].[H:1][C:2]([H:3])[C:7]#[C:8][C:9]([H:10])([H:11])[H:12],4.62959031224
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[C:9]([H:10])([H:11])=[C:12]([H:13])[H:14].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[H:8],1.28071715304
[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-3.64985240165
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])/[C:7]([H:8])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15].[H:9],1.08842088936
[H:10].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8][H:9]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])[H:10],-3.94730030743
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:7],1.81217370336
[H:1][C:2]#[C:3][C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11].[H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11],-1.82089584754
[C:7]([H:8])([H:9])([C:10][H:11])[H:15].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:12]([H:13])[H:14]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15],-4.87040387967
